US07314872B2
2-(S)-(4-Fluoro-phenyl)-N-(1-(S)-hydroxymethyl-2-methyl-propyl)-4-morpholin-4-yl-4-oxo-butyramide (2.31 g, 6.30 mmol, 1.0 eq.) was dissolved in CH2Cl2 (32 mL) and stirred at room temperature. Dess-Martin Periodinane (2.67 g, 6.30 mmol, 1.0 eq.) was added in one portion and the reaction is monitored by LC/MS and TLC. Upon completion, the reaction is diluted with EtOAc (200 mL) and extracted with 1M Na2S2O3 (100 mL), NaHCO3 (100 mL) and brine. The organic phase is dried over MgSO4, filtered and evaporated to provide 2-(S)-(4-Fluoro-phenyl)-N-(1-(S)-formyl-2-methyl-propyl)-4-morpholin-4-yl-4-oxo-butyramide (1.41 g, 3.89 mmol, 62%) and used directly in the next step. HPLC-MS calcd. for C19H25FN2O4 (M+H+) 365.2. found 365.4.

reactant | 2-(S)-(4-Fluoro-phenyl)-N-(1-(S)-hydroxymethyl-2-methyl-propyl)-4-morpholin-4-yl-4-oxo-butyramide | 6.30 mmol, 2.31 g, 1.0 eq. | FC1=CC=C(C=C1)[C@@H](C(=O)N[C@@H](C(C)C)CO)CC(=O)N1CCOCC1 | C19H27FN2O4
reactant | Dess-Martin Periodinane | 6.30 mmol, 2.67 g, 1.0 eq. | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 32 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-(S)-(4-Fluoro-phenyl)-N-(1-(S)-formyl-2-methyl-propyl)-4-morpholin-4-yl-4-oxo-butyramide | 3.89 mmol, 1.41 g, 62% | FC1=CC=C(C=C1)[C@@H](C(=O)N[C@@H](C(C)C)C=O)CC(=O)N1CCOCC1 | C19H25FN2O4
